US09085579B2
A: 3-(2-Aminonaphthalen-1-yl)benzoic acid
A freshly prepared solution of 112 mg (0.5 mmol) of palladium(II) acetate, 106 mg (1 mmol) of sodium carbonate and 186 mg (0.5 mmol) of ethylenediaminetetraacetic acid disodium dihydrate in 50 ml of water is added to a vigorously stirred mixture of 22.2 g (100 mmol) of 1-bromo-2-aminonaphthalene [20191-75-7], 18.3 g (110 mmol) of 3-carboxybenzeneboronic acid [25487-66-5], 27.6 g (200 mmol) of potassium carbonate and 645 mg (2 mmol) of tetrabutylammonium bromide in 300 ml of water, and the mixture is heated under reflux for 16 h. After cooling, the pH is adjusted to 3-4 by addition of acetic acid, and the solid is filtered off with suction, washed a number of times with 5% by weight acetic acid, dried in vacuo and then subjected to azeotropic drying with toluene. Yield: 23.8 g (90 mmol), 90.4%; purity according to 1H-NMR about 98%.

reactant | sodium carbonate | 1 mmol, 106 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylenediaminetetraacetic acid disodium dihydrate | 0.5 mmol, 186 mg | O.O.[Na].[Na].C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O
reactant | 1-bromo-2-aminonaphthalene | 100 mmol, 22.2 g | BrC1=C(C=CC2=CC=CC=C12)N | C10H8BrN
reactant | 3-carboxybenzeneboronic acid | 110 mmol, 18.3 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | potassium carbonate | 200 mmol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
catalyst | tetrabutylammonium bromide | 2 mmol, 645 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 300 ml | O | H2O
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(2-Aminonaphthalen-1-yl)benzoic acid | NC1=C(C2=CC=CC=C2C=C1)C=1C=C(C(=O)O)C=CC1 | C17H13NO2
